US08242280B2
25 mL of anhydrous THF was placed under nitrogen and cooled to −78° C. 2.2 ml (5.5 mmol) of a 2.5 M solution of n-butyl lithium in hexanes were added. To the resulting solution was slowly added 0.7 mL (1.4 g, 5.8 mmol) of 1,3-dibromobenzene. Upon complete addition the resulting solution was stirred at −78° C. for 90 min. 1.00 g (5.71 mmol) of 3-trifluoromethyl-pyridine-2-carbaldehyde was added rapidly. The dark solution was warmed to −20° C. and stirred for 20 min at that temperature. The resulting mixture was distributed between 10% aqueous citric acid and dichloromethane. The phases were separated and the aqueous layer extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and the solvent completely evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 1.053 g (3.171 mmol, 58%) of (3-bromo-phenyl)-(3-trifluoromethyl-pyridin-2-yl)-methanol as a yellow oil. 1H NMR (500 MHz, DMSO-d6) δ 8.84 (m, 1H), 8.18 (dd, 1H), 7.63 (m, 1H), 7.53 (dd, 1H), 7.42 (m, 1H), 7.26-7.24 (m, 2H), 6.31 (d, 1H), 6.02 (d, 1H); MS: m/z 332.0+334.0 (M+H+).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1,3-dibromobenzene | 5.8 mmol, 0.7 mL, 1.4 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 3-trifluoromethyl-pyridine-2-carbaldehyde | 5.71 mmol, 1.00 g | FC(C=1C(=NC=CC1)C=O)(F)F | C7H4F3NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (3-bromo-phenyl)-(3-trifluoromethyl-pyridin-2-yl)-methanol | 3.171 mmol, 1.053 g, 58% | BrC=1C=C(C=CC1)C(O)C1=NC=CC=C1C(F)(F)F | C13H9BrF3NO
